US08937150B2
3-bromo-2-methyl-6-nitroaniline
A solution of N-(3-bromo-2-methyl-6-nitrophenyl)-2,2,2-trifluoroacetamide (1.3 g, 3.97 mmol) in CH3OH (30 mL) was treated with potassium carbonate (1.099 g, 7.95 mmol), and the mixture was stirred at 50° C. overnight. The mixture was cooled to room temperature and poured into water, 1N aq HCl was added to adjust to pH 6, and the mixture was extracted with CH2Cl2 (3×). The combined extracts were dried over Na2SO4, and the drying agent was filtered off and solvent was removed in vacuo to give the title compound as a yellow solid (0.57 g, 62%).

reactant | N-(3-bromo-2-methyl-6-nitrophenyl)-2,2,2-trifluoroacetamide | 3.97 mmol, 1.3 g | BrC=1C(=C(C(=CC1)[N+](=O)[O-])NC(C(F)(F)F)=O)C | C9H6BrF3N2O3
reactant | potassium carbonate | 7.95 mmol, 1.099 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
reactant | HCl | 1N | Cl | ClH
solvent | CH3OH | 30 mL | CO | CH4O
product | 3-bromo-2-methyl-6-nitroaniline | 0.57 g, 62% | BrC=1C(=C(N)C(=CC1)[N+](=O)[O-])C | C7H7BrN2O2
